US04075061
7-Amino-3-carbamoyloxymethylceph-3-em-4-carboxylic acid
7-amino-3-hydroxymethylceph-3-em-4-carboxylic acid (40μg), [14C] carbamoyl phosphate (150μg, 7.5μCi), magnesium sulphate (20μg), manganese chloride (20μg) and pipes buffer (0.5μmole, pH 6.75) were incubated with O-transcarbamoylase as described in Example 9(i). After incubation the mixture was acidified with glacial acetic acid (10μl), clarified by centrifugation and the supernatant dried by rotary evaporation. This material was taken up in acetate/formate buffer [glacial acetic acid (5ml), formic acid (0.2ml) in methanol/water (40:60 v/v, 1 liter), pH adjusted to 3.9 with 4N sodium hydroxide] (30μl) and a portion (10μl) was applied to a Partisil 10 SAX column (250mm×4.6mm) and eluted with the same buffer at 1000 psi (1ml/minute). The U.V. absorption at 260nm and radioactivity of the eluate were monitored. A new U.V. absorption peak was detected after 12 minutes which also contained radioactivity. This peak corresponded to that obtained with authentic title compound. The conversion of cephalosporin starting material into title compound was 13%.

reactant | 7-amino-3-hydroxymethylceph-3-em-4-carboxylic acid | 40μg | NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | carbamoyl phosphate | 150μg | P(=O)(OC(N)=O)([O-])[O-]
reactant | magnesium sulphate | 20μg | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | manganese chloride | 20μg | [Cl-].[Mn+2].[Cl-]
solvent | acetic acid | 10μl | C(C)(=O)O | C2H4O2
product | 7-Amino-3-carbamoyloxymethylceph-3-em-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
